US06888032B2
3-(4-Methoxyphenyl)sulfanylbenzoic acid
Cu(I) iodide (10 mg, 0.05 mmol), potassium carbonate (414 mg, 3.0 mmol) and 3-iodobenzoic acid (248 mg, 1.0 mmol) were charged into a screw-capped test tube with Teflon-lining. The tube was evacuated and backfilled with argon (3 cycles). 2-Propanol (1.0 mL, bench grade solvent without degassing and pre-drying), ethylene glycol (111 μL, 2.0 mmol, bench grade solvent) and 4-methoxythiophenol (123 μL, 1.0 mmol) were added by syringes at room temperature. The tube was heated to 80° C. and stirred for 24 hours. The reaction mixture was then allowed to reach room temperature. Ethyl acetate (˜5 mL), water (˜10 mL) and dil. HCl were added to reach pH 3-4. The reaction mixture was extracted with ethyl acetate (2×10 mL) and CH2Cl2 (2×10 mL). The combined organic phase was passed through a short pad of silica (0.5 cm diameter×1 cm height). Solvent was removed and the yellow residue was redissolved in minimum amount of CH2Cl2. Hexane was added slowly and the solution was stand overnight at room temperature. White crystal was obtained as the titled product (221 mg, 85% yield). Rf=0.2 (hexane/ethyl acetate=2/1) (Note: same Rf value as the starting material). Melting point; 121-123° C. 1H NMR (CDCl3, 300 MHz) δ 10.68 (brs, 1 H), 7.86 (s, 1 H), 7.82 (dt, 1 H, J=1.8 Hz, 6.6 Hz), 7.42 (dt, 2 H, J=2.1 Hz, 8.7 Hz), 7.28-7.31 (m, 2 H), 6.90 (dt, 2 H, J=2.1 Hz, 8.7 Hz), 3.83 (s, 3 H). 13C NMR (CDCl3, 75 MHz) δ 172.0, 160.3, 140.3, 136.1, 132.8, 130.2, 129.2, 129.1, 127.4, 123.1, 55.7. IR (neat, cm−1) 2964 (broad), 2943, 2902, 2875, 2856, 2840, 2813, 2360, 2342, 1688. MS (EI) m/z (relative intensity) 260 (100). Anal. Cald. for C14H12O3S, Cald. C, 64.60; H, 4.65. Found C, 64.52; H, 4.68.

reactant | potassium carbonate | 3.0 mmol, 414 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-iodobenzoic acid | 1.0 mmol, 248 mg | IC=1C=C(C(=O)O)C=CC1 | C7H5IO2
reactant | ethylene glycol | 2.0 mmol, 111 μL | C(CO)O | C2H6O2
reactant | 4-methoxythiophenol | 1.0 mmol, 123 μL | COC1=CC=C(C=C1)S | C7H8OS
reactant | HCl | Cl | ClH
solvent | water | ˜10 mL | O | H2O
solvent | Ethyl acetate | ˜5 mL | C(C)(=O)OCC | C4H8O2
solvent | 2-Propanol | 1.0 mL | CC(C)O | C3H8O
product | 3-(4-Methoxyphenyl)sulfanylbenzoic acid | 221 mg, 85% yield | COC1=CC=C(C=C1)SC=1C=C(C(=O)O)C=CC1 | C14H12O3S
